US06323199B1
5-[2-Hydroxy-4-(2-methoxyphenyl)-4-methyl-2-trifluoromethyl-valeroylamino]-phthalide
400 mg of 2-hydroxy-4-(2-methoxyphenyl)-4-methyl-2-trifluoromethyl-valeric acid is mixed in 5 ml of dimethylacetamide at 0° C. with 0.23 ml of thionyl chloride. After 30 minutes of stirring at 0° C., 390 mg of 5-aminophthalide in 2 ml of dimethylacetamide is added, and the mixture is stirred for another 4 hours at this temperature. Then, ice water is added, extracted with ethyl acetate, and after drying (Na2SO4), the crude product is chromatographed on silica gel. With hexane/ethyl acetate (50:50), the title compound is obtained in a crystalline state, flash point 134-135° C.

reactant | 2-hydroxy-4-(2-methoxyphenyl)-4-methyl-2-trifluoromethyl-valeric acid | 400 mg | OC(C(=O)O)(CC(C)(C)C1=C(C=CC=C1)OC)C(F)(F)F | C14H17F3O4
reactant | thionyl chloride | 0.23 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 5-aminophthalide | 390 mg | NC=1C=C2COC(=O)C2=CC1 | C8H7NO2
solvent | dimethylacetamide | 5 ml | CC(=O)N(C)C | C4H9NO
solvent | dimethylacetamide | 2 ml | CC(=O)N(C)C | C4H9NO
product | 5-[2-Hydroxy-4-(2-methoxyphenyl)-4-methyl-2-trifluoromethyl-valeroylamino]-phthalide | OC(C(=O)NC=1C=C2COC(=O)C2=CC1)(CC(C)(C)C1=C(C=CC=C1)OC)C(F)(F)F | C22H22F3NO5
